US07138410B2
(3R)-N-[4′-(Aminocarbonyl)-1,1′-biphenyl-4-yl]-1-azabicyclo[2.2.2]octane-3-carboxamide Hydrochloride
60 mg (0.16 mmol) of 4′-{[(3S)-1-azabicyclo[2.2.2]oct-3-ylcarbonyl]amino}-1,1′-biphenyl-4-carboxylic acid hydrochloride and 2 ml (27.4 mmol) of thionyl chloride are heated under reflux for 3 h. The excess of thionyl chloride is distilled off. The crude acid chloride prepared in this way is introduced into 1 ml of THF and stirred with 3.1 ml (1.55 mmol) of ammonia (0.5M solution in dioxane) at RT for three days. The solvent is removed under reduced pressure, and the crude product is purified by preparative HPLC. 11 mg (18% of theory) of the title compound are obtained.

reactant | 4′-{[(3S)-1-azabicyclo[2.2.2]oct-3-ylcarbonyl]amino}-1,1′-biphenyl-4-carboxylic acid hydrochloride | 0.16 mmol, 60 mg | Cl.N12C[C@H](C(CC1)CC2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)O
reactant | thionyl chloride | 27.4 mmol, 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 1.55 mmol, 0.5M, 3.1 ml | N | H3N
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (3R)-N-[4′-(Aminocarbonyl)-1,1′-biphenyl-4-yl]-1-azabicyclo[2.2.2]octane-3-carboxamide Hydrochloride | Cl.NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)[C@H]1CN2CCC1CC2 | InChI=1S/C21H23N3O2.ClH/c22-20(25)17-3-1-14(2-4-17)15-5-7-18(8-6-15)23-21(26)19-13-24-11-9-16(19)10-12-24;/h1-8,16,19H,9-13H2,(H2,22,25)(H,23,26);1H/t19-;/m0./s1
